US06518264B2
A mixture of 0.45 g of 1-[bis(4-chlorophenyl)methyl]-3-{(methylsulfonyl)[3-(pentafluorophenoxycarbonyl)phenyl]methylene}azetidine, 0.07 cm3 of 1-aminopiperidine in 4 cm3 of dimethylformamide is stirred for 18 hours at room temperature. The mixture is taken up in 30 cm3 of ethyl acetate. The organic phase is washed with 3 times 50 cm3 of water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). 0.2 g of 1-[bis-(4-chlorophenyl)methyl]-3-{(methylsulfonyl)[3-(N-piperidylcarbamoyl)phenyl]methylene}azetidine is obtained melting at 175° C. [NMR spectrum in DMSO-d6, T=300K, δ in ppm (400 MHz): 1.40 (2H, m, CH2), 1.60 (4H, m, 2CH2), 2.85 (4H, m, 2NCH2), 3.00 (3H, s, SCH3), 3.80 (2H, s, NCH2), 4.20 (2H, s, NCH2), 4.80 (1H, s, NCH), between 7.45 and 7.60 (10H, m, 10CH arom.), 7.75 (2H, m, 2CH arom.), 9.45 (1H, s, NH)].

reactant | 1-[bis(4-chlorophenyl)methyl]-3-{(methylsulfonyl)[3-(pentafluorophenoxycarbonyl)phenyl]methylene}azetidine | 0.45 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(C1=CC(=CC=C1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)S(=O)(=O)C)C1=CC=C(C=C1)Cl | C31H20Cl2F5NO4S
reactant | 1-aminopiperidine | 0.07 cm3 | NN1CCCCC1 | C5H12N2
solvent | dimethylformamide | 4 cm3 | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
product | 1-[bis-(4-chlorophenyl)methyl]-3-{(methylsulfonyl)[3-(N-piperidylcarbamoyl)phenyl]methylene}azetidine | 0.2 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(C1=CC(=CC=C1)C(NN1CCCCC1)=O)S(=O)(=O)C)C1=CC=C(C=C1)Cl | C30H31Cl2N3O3S
